US04486433
2-Amino-7-acetyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
This compound was prepared analogous to Example 13 by reacting a mixture of 1-acetyl-hexhydroazepine-4,5-dione and 1-acetyl-hexahydroazepine-3,4-dione (prepared from 1-acetyl-hexhydroazepine-4-ones by selenium dioxide oxidation in dioxane/water) with 2-amino-acetamidine dihydrobromide.

reactant | 1-acetyl-hexahydroazepine-3,4-dione | C(C)(=O)N1CC(C(CCC1)=O)=O | C8H11NO3
reactant | 2-amino-acetamidine dihydrobromide | Br.Br.NCC(=N)N
product | 2-Amino-7-acetyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCN(CC2)C(C)=O)N1 | C10H14N4O
